US05753641
Synthesis of 4-(4-isobutylbenzyloxy)-2,3-dimethylbenzaldehyde
A mixture of 4-hydroxy-2,3-dimethylbenzaldehyde (220 mg), 4-isobutylbenzyl bromide (341 mg), potassium carbonate (1.38 g) and ethyl methyl ketone (10 ml) was refluxed for 6 hrs. After cooling, the reaction mixture was diluted with ethyl acetate, the solution was washed with dil hydrochloric acid, water, successively, dried and evaporated. The residue was purified by column chromatography on silica gel (hexane:EtOAc=10:1) to give the title compound (383 mg) having the following physical data:

reactant | 4-hydroxy-2,3-dimethylbenzaldehyde | 220 mg | OC1=C(C(=C(C=O)C=C1)C)C | C9H10O2
reactant | 4-isobutylbenzyl bromide | 341 mg | C(C(C)C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl methyl ketone | 10 ml | CC(=O)CC | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-isobutylbenzyloxy)-2,3-dimethylbenzaldehyde | 383 mg | C(C(C)C)C1=CC=C(COC2=C(C(=C(C=O)C=C2)C)C)C=C1 | C20H24O2
